US06359013B1
E-2,4-difluorostyryl 4-fluorobenzyl sulfone
A solution of 4-fluorobenzyl sulfonylacetic acid (0.01 mol) and 2.4-difluorobenzaldehyde (0.01 mol) was subjected to Procedure 1. The title compound was obtained in 68% yield.

reactant | 4-fluorobenzyl sulfonylacetic acid | 0.01 mol | FC1=CC=C(CS(=O)(=O)CC(=O)O)C=C1 | C9H9FO4S
reactant | 2.4-difluorobenzaldehyde | 0.01 mol | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
product | E-2,4-difluorostyryl 4-fluorobenzyl sulfone | 68% yield | FC1=CC=C(CS(=O)(=O)\C=C\C2=C(C=C(C=C2)F)F)C=C1 | C15H11F3O2S
